data/core_train_final.csv
"[CH2:10]C1CCC1.[Cl:20][Cl:21]>>C1CC(C1)[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC[C:10]1CCC(C1)(C)C.[Br:20][Br:21]>>CC[C:10]1(CCC(C1)(C)C)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[CH:21]=[CH2:20].C[CH:10]CC(C)CC1=CC=CC=C1>>C[CH:21][CH2:20][CH:10](C)CC(C)CC1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)(C[CH:10]C(=O)O)C(=N)N.[CH2:20]=[CH:21]C(=O)O>>CC(C)(C[CH:10]([CH2:20][CH:21]C(=O)O)C(=O)O)C(=N)N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[O:21]=[C:20](CC1)C(C(OCC)=O)([CH2:10])C2=C1C=CC=C2>>[O:21][C:20]3(CC4)C(C(OCC)=O)([CH2:10]3)C5=C4C=CC=C5 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH2:20]=[CH:21]N1CCCC1=O.[OH:10]>>C1CC(=O)N(C1)[CH:21][CH2:20][OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCC(C)C.[Cl:20][Cl:21].[He]>>[He].CCCC(C)C.[Cl:20].[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"CC(=C(C)[CH2:10])C.[Br:20]>>CC(=C(C)[CH2:10][Br:20])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C[CH:10]Cl)C#N.[CH2:20]=[CH:21]Cl>>CC(C)(C[CH:10]([CH2:20][CH:21]Cl)Cl)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C[CH:10]C(C)(C)C.[Br:20][Br:21]>>C[CH:10](C(C)(C)C)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"O=C1N(C(C)(C)C)CC(CC)(CC)N([O:10][CH:20](C2=CC=CC=C2)C)C1(CC)CC.[Ar]>>[Ar].C[CH:20]C3=CC=CC=C3.O=C4N(C(C)(C)C)CC(CC)(CC)N([O:10])C4(CC)CC 10,20-10;10,20-20",Heat,Initiation,homolyze
"[CH3:10].[Br:20][Br:21]>>[CH3:10][Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:3][C:2](=[O:1])[H:4].[H:6][O:5]>>[H:3][C:2]=[O:1].[H:6][O:5][H:4] 5-5,4; 2,4-5,4; 2,4-2",Room Temperature,Propagation,abstraction
"C[CH:10]C(C(Cl)(Cl)Cl)F.[Cl:20][Cl:21]>>C[CH:10](C(C(Cl)(Cl)Cl)F)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)C[CH:20]C(C)(C)C.[Cl:10][Cl:11]>>CC(C)C[CH:20](C(C)(C)C)[Cl:10].[Cl:11] 10,11-10,20;10,11-11;20-10,20",Room Temperature,Propagation,abstraction
"C[C:20]1CC1.[Cl:10][Cl:11]>>C[C:20]1(CC1)[Cl:10].[Cl:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[O-:3][S:2](=[O:1])(=[O:10])[O:4][O:5][S:6](=[O:7])(=[O:9])[O-:8].[Ar:13].[K+:11].[K+:12]>>[O-:8][S:6](=[O:7])(=[O:9])[O:5].[O-:3][S:2](=[O:10])(=[O:1])[O:4].[Ar:13].[K+:11].[K+:12] 4,5-4; 4,5-5",Room Temperature,Initiation,homolyze
"O=C([N:10]1)CCC1=O.C[CH:21]=[CH2:20]>>O=C([N:10]2[CH2:20][CH:21]C)CCC2=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"O=C(C1=C2C=CC=C1)N(C[CH:10]CCCC)C2=O.O=C(C3=C4C=CC=C3)[N:21]([Br:20])C4=O>>O=C(C5=C6C=CC=C5)N(C[CH:10]([Br:20])CCCC)C6=O.O=C(C7=C8C=CC=C7)[N:21]C8=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(C)[O:10].[CH2:21]=[C:20](F)F>>CC(C)(C)[O:10][C:20]([CH2:21])(F)F 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCC(CC)CC.[Br:20][Br:21].[He]>>[He].CCCC(CC)CC.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"CCC[CH:10]C.[Cl:20][Cl:21]>>CCC[CH:10](C)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][Br:2].[CH3:7][CH:5]([C:4]([CH3:3])[CH3:8])[Br:6]>>[H:1][C:4]([CH3:3])([CH3:8])[CH:5]([CH3:7])[Br:6].[Br:2] 4-4,1;1,2-2;1,2-4,1",Room Temperature,Propagation,abstraction
"[H:5][Sn:6]([CH2:7][CH2:8][CH2:9][CH3:10])([CH2:11][CH2:12][CH2:13][CH3:14])[CH2:15][CH2:16][CH2:17][CH3:18].[CH3:1][C:2]([CH3:3])[CH3:4]>>[H:5][C:2]([CH3:1])([CH3:3])[CH3:4].[CH3:10][CH2:9][CH2:8][CH2:7][Sn:6]([CH2:11][CH2:12][CH2:13][CH3:14])[CH2:15][CH2:16][CH2:17][CH3:18] 5,6-6; 2-2,5;5,6-2,5",Room Temperature,Propagation,abstraction
"[H:20][S:21]C1=CC=CC=C1.C1CC(C2(C1)CCCC2=O)[CH:10]SC3=CC=CC=C3>>[H:20][CH:10](C1CCCC12CCCC2=O)SC3=CC=CC=C3.C1=CC=C(C=C1)[S:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:7]=[CH:8][S:9](=[O:10])(=[O:17])[C:11]1=[CH:12][CH:13]=[CH:14][CH:15]=[CH:16]1.[CH2:1][CH:2]1[CH2:6][CH2:5][CH:4]=[CH:3]1>>[CH2:5]1[CH2:6][CH:2]([CH:3]=[CH:4]1)[CH2:1][CH2:7][CH:8][S:9](=[O:10])(=[O:17])[C:11]2=[CH:12][CH:13]=[CH:14][CH:15]=[CH:16]2 1-1,7; 7,8-1,7; 7,8-8",Room Temperature,Propagation,addition
"[H][C:20]1=[CH:21]C=CC=C1.C2=CC=C[C:10]=C2>>[H][C:20]3([C:10]4=CC=CC=C4)[CH:21]C=CC=C3 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][Br:21].C1=CC=C(C=C1)[O:10]>>[H:20][O:10]C1=CC=CC=C1.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][C:2]([H:3])[C:4]1=[CH:5][CH:6]=[CH:7][CH:8]=[CH:9]1.[H:11][Br:10].[Br:12]>>[H:1][C:2]([H:3])([C:4]1=[CH:5][CH:6]=[CH:7][CH:8]=[CH:9]1)[Br:12].[H:11][Br:10] 12-2,12;2-2,12",Room Temperature,Termination,recombine
"CC1CC[CH:10]C1.[Cl:20][Cl:21]>>CC1CC[CH:10](C1)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
